US06448247B1
1(a) Methyl 3-(3,4-dichlorophenyl)-3-butenoate
11.31 g (0.47 mole) of magnesium flakes were added to 300 ml of diethyl ether, followed by a small amount of iodine. The mixture was then allowed to stand for 1 hour, after which a solution of 102.87 g (0.46 mole) of 1-bromo-3,4-dichlorobenzene in 150 ml of diethyl ether was slowly added dropwise. A further 150 ml of diethyl ether was added, and then 60.33 g (44.3 mmole) of anhydrous zinc chloride was slowly added and the mixture was stirred for 1 hour. 3.10 g (4.42 mmole) of dichlorobis(triphenylphosphine)palladium (II) were then added, and a solution of 34.15 ml (42.8 mmole) of diketene in 600 ml of diethyl ether was added dropwise. The reaction mixture was then stirred at room temperature for 30 minutes, after which it was poured into 1 liter of ice-cooled 1 N aqueous hydrochloric acid and extracted three times, each time with 500 ml of diethyl ether. The combined organic extracts were extracted three times, each time with 700 ml of a 1 N aqueous solution of sodium hydroxide. The combined aqueous extracts were acidified with concentrated aqueous hydrochloric acid, whilst ice-cooling, and extracted three times, each time with 500 ml of diethyl ether, and then the combined organic extracts were dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was dissolved in 350 ml of methanol. 10 ml of concentrated aqueous sulfuric acid were added, and the solution was heated under reflux for 30 minutes. At the end of this time, the reaction mixture was cooled in air and neutralised with a saturated aqueous solution of sodium hydrogencarbonate. The methanol was then removed by distillation under reduced pressure, and the resulting residue was extracted with three times, each time with 200 ml of methylene chloride. The combined organic extracts were dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The resulting residue was distilled under reduced pressure to obtain 69.13 g (yield 62%) of the title compound as a pale yellow oil, boiling at 144-146° C. (5 mm Hg).

reactant | magnesium | 0.47 mole, 11.31 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-3,4-dichlorobenzene | 0.46 mole, 102.87 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | diketene | 42.8 mmole, 34.15 ml | C=C1CC(=O)O1 | C4H4O2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 44.3 mmole, 60.33 g | [Cl-].[Zn+2].[Cl-]
catalyst | dichlorobis(triphenylphosphine)palladium | 4.42 mmole, 3.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 3-(3,4-dichlorophenyl)-3-butenoate | 69.13 g, yield 62% | ClC=1C=C(C=CC1Cl)C(CC(=O)OC)=C | C11H10Cl2O2
